US05912247
To a mixture of AD-mix-α (manufactured by Aldrich Co.) (29.74 g), t-butanol (106 ml) and water (106 ml) is added 2-[4-(benzyloxycarbonyl)piperazin-1-yl)-4-[(3-buten-1-yl)oxy]-quinazoline (8.88 g) with stirring under ice-cooling, and the mixture is stirred under ice-cooling for 22 hours. To the reaction mixture is added sodium sulfite (31.8 g), and the mixture is stirred at room temperature for 35 minutes. The reaction mixture is separated into an organic layer and an aqueous layer, and the aqueous layer is extracted with ethyl acetate. The organic layer is combined with the ethyl acetate extract, and washed with water. The ethyl acetate solution is dried over anhydrous magnesium sulfate, evaporated to dryness under reduced pressure, and the residue is purified by medium pressure liquid column chromatography (eluent, chloroform:methanol=50:1, v/v), and the resulting crystalline product is recrystallized twice from acetone-diethyl ether to give 2-[4-(benzyloxycarbonyl)piperazin-1-yl]-4-[(3S)-(3,4-dihydroxybutan-1-yl)oxy]quinazoline (2.15 g) as crystals.

reactant | AD-mix-α | 29.74 g | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | t-butanol | 106 ml | C(C)(C)(C)O | C4H10O
reactant | 2-[4-(benzyloxycarbonyl)piperazin-1-yl)-4-[(3-buten-1-yl)oxy]-quinazoline | 8.88 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NC2=CC=CC=C2C(=N1)OCCC=C | C24H26N4O3
reactant | sodium sulfite | 31.8 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 106 ml | O | H2O
product | 2-[4-(benzyloxycarbonyl)piperazin-1-yl]-4-[(3S)-(3,4-dihydroxybutan-1-yl)oxy]quinazoline | 2.15 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NC2=CC=CC=C2C(=N1)OCC[C@@H](CO)O | C24H28N4O5
